datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[S:21][H:28])([H:22])([H:23])[H:24]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[S:21][H:28],15.8992
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7])([H:5])[H:6].[C:11](=[C:12]([C:13]([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])[H:18])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14](=[C:15]([H:21])[H:22])[H:20])[H:19])([H:5])[H:6],77.2366
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:8])([H:6])[H:7],45.5638
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20](=[C:21]([H:23])[H:24])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:20](=[C:21]([H:23])[H:24])[H:22])[H:10])([H:8])[H:9],3.22168
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([O:11][O:12])([H:18])[H:19])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:12][O:11][C:10]([C:9]([C:8]([H:13])([H:14])[H:15])([H:16])[H:17])([H:18])[H:19],56.9024
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[S:14][H:21])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[S:14][H:21],25.9408
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9][C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9](=[C:8]([H:12])[H:13])[C:10](=[S:11])[H:14],69.8728
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21]([C:22]([H:25])([H:26])[H:27])([H:23])[H:24],15.0624
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[O:6][N:7]=[O:8]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][O:6][N:7]=[O:8],173.2176
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:17])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26](=[C:27]([H:33])[H:34])[H:32])[H:31])[H:13])([H:11])[H:12],66.3164
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])([H:13])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:10]([C:9]([H:13])([H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],-10.0416
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10],7.48936
[N:1]([H:2])[H:3].[O-:4][N+:5](=[O:6])[H:7]>>[N:1]([H:2])([H:3])[H:7].[O:4][N:5]=[O:6],3.64008
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8](=[C:9]([C:10]([C:11](=[C:12]([H:26])[H:27])[H:25])[H:24])[H:23])[H:22])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]([H:22])=[C:9]([H:23])[C:10]1([C:11](=[C:12]([H:26])[H:27])[H:25])[H:24])[H:13],126.273
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8][H:14])[H:16])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11],123.428
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[O:5]1)([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:17],64.0152
